US07265149B2
In analogy to the procedure described for example 1 f], {6-[1-methyl-5-(4-trifluoromethoxy-phenyl)-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester was treated with LiOH to obtain {6-[1-methyl-5-(4-trifluoromethoxy-phenyl)-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid as colorless solid.

reactant | {6-[1-methyl-5-(4-trifluoromethoxy-phenyl)-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC1=NN(C(=C1)C1=CC=C(C=C1)OC(F)(F)F)C)=O | C24H22F3N3O4
reactant | LiOH | [Li+].[OH-]
product | {6-[1-methyl-5-(4-trifluoromethoxy-phenyl)-1H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid | CN1N=C(C=C1C1=CC=C(C=C1)OC(F)(F)F)COC1=CC=C2C=CN(C2=C1)CC(=O)O | C22H18F3N3O4
